US06291487B1
To a suspension of 970 mg of 2-(4-methoxy-3-propoxyphenyl)-4-(5-methoxycarbonyl-2-furyl)thiazole in 30 ml of methanol was added 20 ml of 1,4-dioxane and 5 ml of a 5 N aqueous sodium hydroxide solution. The reaction mixture was refluxed for 3 hours, then concentrated approximately {fraction (1/10)}. Water was added to the residue, and washed with ethyl acetate. To the aqueous layer was acidified with 5 N hydrochloric acid, and extracted with ethyl acetate. The combined organic layer was washed with water and a saturated aqueous sodium chloride solution, and dried with magnesium sulfate. Evaporation the solution, the residue was recrystallized from ethyl acetate to obtain 420 mg of 2-(4-methoxy-3-propoxyphenyl)-4-(5-carbonyl-2-furyl)thiazole as a white powder. mp. 191.0-192.0° C.

reactant | 2-(4-methoxy-3-propoxyphenyl)-4-(5-methoxycarbonyl-2-furyl)thiazole | 970 mg | COC1=C(C=C(C=C1)C=1SC=C(N1)C=1OC(=CC1)C(=O)OC)OCCC | C19H19NO5S
reactant | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 2-(4-methoxy-3-propoxyphenyl)-4-(5-carbonyl-2-furyl)thiazole | 420 mg | COC1=C(C=C(C=C1)C=1SC=C(N1)C1OC(C=C1)=C=O)OCCC | C18H17NO4S
